US04182776
2-[p-(Benzyloxy)phenoxy]-2-methyl-propionic acid
To a solution of 10.0 g of hydroquinone monobenzyl ether in 40 ml of hexamethylphosphoramide is added 2.7 g of sodium methoxide. The mixture is stirred 10 minutes and 10.3 g of ethyl 2-bromoisobutyrate is added. The mixture is heated at 120° C. for 22 hours. After standing, the mixture is filtered. The solid is dissolved in 150 ml of ethanol-water (9:1) and 10 g of potassium hydroxide is added. The mixture is refluxed for 6 hours, acidified with concentrated hydrochloric acid, diluted with water, filtered and the solid washed with water to give crystals. The crystals ae dissolved in aqueous sodium hydroxide and the solution extracted once with chloroform and once with ether. The aqueous layer is acidified with concentrated hydrochloric acid and the mixture filtered. The solid is recrystallized from glacial acetic acid to give white crystals, mp 134°-137° C.

reactant | hydroquinone monobenzyl ether | 10.0 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | sodium methoxide | 2.7 g | C[O-].[Na+]
reactant | ethyl 2-bromoisobutyrate | 10.3 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | hexamethylphosphoramide | 40 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-[p-(Benzyloxy)phenoxy]-2-methyl-propionic acid | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C17H18O4
